US07291183B2
1f.) 4-tert-Butyl 3-(2-propenyl)-2(3H)-thiazolone hydrazone hydrochloride
From 4-(2-propenyl)-3-thiosemicarbazide and 1-chloro-3,3-dimethyl-2-butanone.

reactant | 4-(2-propenyl)-3-thiosemicarbazide | C(C=C)NC(NN)=S | C4H9N3S
reactant | 1-chloro-3,3-dimethyl-2-butanone | ClCC(C(C)(C)C)=O | C6H11ClO
product | 4-tert-Butyl 3-(2-propenyl)-2(3H)-thiazolone hydrazone hydrochloride | Cl.C(C)(C)(C)C=1N(C(SC1)=NN)CC=C | InChI=1S/C10H17N3S.ClH/c1-5-6-13-8(10(2,3)4)7-14-9(13)12-11;/h5,7H,1,6,11H2,2-4H3;1H
